US06239151B1
A solution of 0.763 g of 2(R)-[3-benzamido-1(S)-(tert-butoxycarbonyl)propyl]-2′-isobutyl-4-methylvalerohydrazide and 0.780 g of 2-(1H-imidazol-1-yl)acetic acid hydrogen bromide in 8 ml of dimethylformamide was cooled to 0° C. under nitrogen and treated with 0.45 ml of N-ethylmorpholine and 0.720 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride. The mixture was allowed to warm to room temperature and stirred overnight. Evaporation of the solvent gave a residue which was dissolved in ethyl acetate and washed with water and saturated aqueous sodium chloride. Drying over anhydrous magnesium sulfate, filtration, and evaporation gave 0.914 g of 2(R)-[3-benzamido-1(S)-(tert-butoxycarbonyl)propyl]-2′-[2-(1H-imidazol-1-yl)acetyl]-2′-isobutyl-4-methylvalerohydrazide in the form of an off-white foam.

reactant | 2(R)-[3-benzamido-1(S)-(tert-butoxycarbonyl)propyl]-2′-isobutyl-4-methylvalerohydrazide | 0.763 g | C(C1=CC=CC=C1)(=O)NCC[C@H](C(=O)OC(C)(C)C)[C@H](C(=O)NNCC(C)C)CC(C)C | C25H41N3O4
reactant | 2-(1H-imidazol-1-yl)acetic acid hydrogen bromide | 0.780 g | Br.N1(C=NC=C1)CC(=O)O
reactant | N-ethylmorpholine | 0.45 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.720 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2(R)-[3-benzamido-1(S)-(tert-butoxycarbonyl)propyl]-2′-[2-(1H-imidazol-1-yl)acetyl]-2′-isobutyl-4-methylvalerohydrazide | 0.914 g | C(C1=CC=CC=C1)(=O)NCC[C@H](C(=O)OC(C)(C)C)[C@H](C(=O)NN(CC(C)C)C(CN1C=NC=C1)=O)CC(C)C | C30H45N5O5
